US05763359
33. Preparation of N-(1-Ethyl-5-methyl-3-(trifluoromethyl)-4-pyrazolyl)-5-methoxy-7-methyl[1,2,4]triazolo[1,5-c]pyrimidine-2-sulfonamide
Pyridine (0.32 g (4.0 mmol)) and dimethyl sulfoxide (0.03 g (0.4 mmol)) were added to a solution of 1.0 g (4.0 mmol) of 2-chlorosulfonyl-5-methoxy-7-methyl[1,2,4]triazolo[1,5-c]pyrimidine and 0.77 g (4.0 mmol) of 4-amino-1-ethyl-5-methyl-3-(trifluoromethyl)pyrazole in 15 mL of acetonitrile at ambient temperature with stirring. After 18 hours, the volatiles were removed by evaporation under reduced pressure and the residue was partitioned between dichloromethane and water, stirring for 10 min before separation. The solids were recovered by filtration and washed with ether. They were then resuspended in water and the mixture stirred for 30 min. The solids were recovered by filtration, washed with ether, and dried under reduced pressure at 40° C. overnight. The resulting 1.3 g (78 percent of theory) of white powder melting at 208°-209° C. was the title compound (Compound 1).

reactant | Pyridine | 4.0 mmol, 0.32 g | N1=CC=CC=C1 | C5H5N
reactant | dimethyl sulfoxide | 0.4 mmol, 0.03 g | CS(=O)C | C2H6OS
reactant | 2-chlorosulfonyl-5-methoxy-7-methyl[1,2,4]triazolo[1,5-c]pyrimidine | 4.0 mmol, 1.0 g | ClS(=O)(=O)C1=NN2C(=NC(=CC2=N1)C)OC | C7H7ClN4O3S
reactant | 4-amino-1-ethyl-5-methyl-3-(trifluoromethyl)pyrazole | 4.0 mmol, 0.77 g | NC=1C(=NN(C1C)CC)C(F)(F)F | C7H10F3N3
solvent | acetonitrile | 15 mL | C(C)#N | C2H3N
product | N-(1-Ethyl-5-methyl-3-(trifluoromethyl)-4-pyrazolyl)-5-methoxy-7-methyl[1,2,4]triazolo[1,5-c]pyrimidine-2-sulfonamide | C(C)N1N=C(C(=C1C)NS(=O)(=O)C1=NN2C(=NC(=CC2=N1)C)OC)C(F)(F)F | C14H16F3N7O3S
